US07405215B2
b.) 2-(3,5-Dimethyl-isoxazol-4-ylmethyl)-3-hydroxy-2,3-dihydro-isoindol-1-one
NaBH4 (36 mg, 0.938 mmol) was added slowly to a stirring mixture of 2-(3,5-Dimethyl-isoxazol-4-ylmethyl)-isoindole-1,3-dione (20 mg, 0.781 mmol) in methanol (2 mL). After stirring at room temperature for 10 minutes, the reaction was quenched with acetic acid (1 mL) and partitioned between water and dichloromethane. The organic layer was washed several times with water and concentrated under vacuum to give the sub-title compound as a white solid. MS: ESI (positive): 259 (M+H).

reactant | NaBH4 | 0.938 mmol, 36 mg | [BH4-].[Na+]
reactant | 2-(3,5-Dimethyl-isoxazol-4-ylmethyl)-isoindole-1,3-dione | 0.781 mmol, 20 mg | CC1=NOC(=C1CN1C(C2=CC=CC=C2C1=O)=O)C | C14H12N2O3
solvent | methanol | 2 mL | CO | CH4O
product | 2-(3,5-Dimethyl-isoxazol-4-ylmethyl)-3-hydroxy-2,3-dihydro-isoindol-1-one | CC1=NOC(=C1CN1C(C2=CC=CC=C2C1O)=O)C | C14H14N2O3
